US09403816B2
N-Methoxy-N,2,4-trimethylthiazole-5-carboxamide
To a flask containing 2,4-dimethylthiazole-5-carboxylic acid (2.5 g, 15.9 mmol) was added DCM (75 mL) to give a suspension. DMF (3 mL) was added which resulted in a homogeneous solution. Then, carbonyldiimidazole (2.84 g, 17.5 mmol) was introduced and the mixture was stirred at room temperature for 2 hours. N,O-dimethylhydroxylamine HCl (1.9 g, 19.9 mmol) was then added and the mixture was stirred at room temperature for 18 hours, at which time the reaction mixture was diluted with water and 1 N aqueous NaOH and the aqueous portion was extracted with DCM (4×50 mL). The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated. Chromatography on silica gel (10% EtOAc-DCM increasing to 40% EtOAc) provided the title compound as a colorless oil.

reactant | 2,4-dimethylthiazole-5-carboxylic acid | 15.9 mmol, 2.5 g | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | DCM | 75 mL | C(Cl)Cl | CH2Cl2
reactant | carbonyldiimidazole | 17.5 mmol, 2.84 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine HCl | 19.9 mmol, 1.9 g | Cl.CNOC
solvent | water | O | H2O
solvent | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-Methoxy-N,2,4-trimethylthiazole-5-carboxamide | CON(C(=O)C1=C(N=C(S1)C)C)C | C8H12N2O2S
